US07655679B2
1.0 g 4-{[4-(4-Methoxy-phenyl)-thiazol-2-ylamino]-methyl}-benzonitrile was dissolved in 150 ml dimethylformamide. 150 mg sodium hydride (24% in mineral oil) were added and the reaction mixture stirred at room temperature for thirty minutes. Then 0.43 ml 1-Iodobutane were added and the reaction mixture stirred at room temperature for two hours. Then 100 ml ethyl acetate were added and the mixture was washed three times with portions of 50 ml water and then dried over MgSO4. The solvents were removed in vacuo to obtain 1.2 g 4-({Butyl-[4-(4-methoxy-phenyl)-thiazol-2-yl]-amino}-methyl)-benzonitrile.

reactant | 4-{[4-(4-Methoxy-phenyl)-thiazol-2-ylamino]-methyl}-benzonitrile | 1.0 g | COC1=CC=C(C=C1)C=1N=C(SC1)NCC1=CC=C(C#N)C=C1 | C18H15N3OS
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | 1-Iodobutane | 0.43 ml | ICCCC | C4H9I
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-({Butyl-[4-(4-methoxy-phenyl)-thiazol-2-yl]-amino}-methyl)-benzonitrile | 1.2 g | C(CCC)N(C=1SC=C(N1)C1=CC=C(C=C1)OC)CC1=CC=C(C#N)C=C1 | C22H23N3OS
